US07462623B2
7-(2-chloroethoxy)-4-(5-chloro-2,3-methylenedioxypyrid-4-ylamino)-5-isopropoxyquinazoline
Using an analogous procedure to that described in Example 1, 4-chloro-7-(2-chloroethoxy)-5-isopropoxyquinazoline was reacted with 4-amino-5-chloro-2,3-methylenedioxypyridine to give the title compound in 86% yield; NMR Spectrum: (CDCl3) 1.55 (d, 6H), 3.9 (t, 2H), 4.4 (t, 2H), 4.9 (m, 1H), 6.2 (s, 2H), 6.6 (s, 1H), 6.85 (s, 1H), 7.75 (s, 1H), 8.6 (s, 1H), 9.65 (s, 1H); Mass Spectrum: M+H+ 437 and 439.

reactant | 4-chloro-7-(2-chloroethoxy)-5-isopropoxyquinazoline | ClC1=NC=NC2=CC(=CC(=C12)OC(C)C)OCCCl | C13H14Cl2N2O2
reactant | 4-amino-5-chloro-2,3-methylenedioxypyridine | NC1=C2C(=NC=C1Cl)OCO2 | C6H5ClN2O2
product | 7-(2-chloroethoxy)-4-(5-chloro-2,3-methylenedioxypyrid-4-ylamino)-5-isopropoxyquinazoline | 86% yield | ClCCOC1=CC(=C2C(=NC=NC2=C1)NC1=C2C(=NC=C1Cl)OCO2)OC(C)C | C19H18Cl2N4O4
